US08703758B2
D) N-(2-{[1-(diphenylmethyl)azetidin-3-yl]oxy}-1-methylethyl)acetamide
A solution of 3-(2-azidopropoxy)-1-(diphenylmethyl)azetidine (350 mg) and triphenylphosphine (340 mg) in THF/water (15 mL/5 mL) was heated under reflux for 2 hr. The mixture was allowed to cool, 1M hydrochloric acid was added thereto, and the mixture was washed with diethyl ether. The obtained aqueous solution was neutralized with saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The obtained organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in ethyl acetate (15 mL), acetic anhydride (1 mL) was added thereto, and the mixture was stirred at 60° C. for 5 hr. The mixture was allowed to cool, washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give the title compound (0.31 g).

reactant | 3-(2-azidopropoxy)-1-(diphenylmethyl)azetidine | 350 mg | N(=[N+]=[N-])C(COC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1)C | C19H22N4O
reactant | triphenylphosphine | 340 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hydrochloric acid | 1M | Cl | ClH
reactant | THF water | 15 mL | C1CCOC1.O
product | N-(2-{[1-(diphenylmethyl)azetidin-3-yl]oxy}-1-methylethyl)acetamide | 0.31 g | C1(=CC=CC=C1)C(N1CC(C1)OCC(C)NC(C)=O)C1=CC=CC=C1 | C21H26N2O2
